US04025641
2.88 g (0.010 mol) of 6-(6-Isopentyloxyhexyloxy)-hexanol are mixed with 2.15 g (0.010 mol) of piperonyl bromide and 1.26 g (0.015 mol) of sodium bicarbonate and the mixture is stirred at 80° for 18 hours and then at 120° C. for 6 hours. 1.0 cc of pyridine is added to the reaction mixture which is heated to 80° over the course of 2 hours. The reaction mixture is cooled, taken up in ether, washed with 2N sulphuric acid, water and saturated sodium chloride solution, dried over magnesium sulphate and evaporated. After chromatography of the residue on silica gel with hexane/acetone (98:2) and (96:4), [6-(6-Isopentyloxyhexyloxy)-hexyl]-piperonyl ether is obtained as a colourless oil.

reactant | 6-(6-Isopentyloxyhexyloxy)-hexanol | 0.010 mol, 2.88 g | C(CC(C)C)OCCCCCCOCCCCCCO | C17H36O3
reactant | piperonyl bromide | 0.010 mol, 2.15 g | C(C1=CC=2OCOC2C=C1)Br | C8H7BrO2
reactant | sodium bicarbonate | 0.015 mol, 1.26 g | C([O-])(O)=O.[Na+]
reactant | pyridine | 1.0 cc | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | [6-(6-Isopentyloxyhexyloxy)-hexyl]-piperonyl ether | C(CC(C)C)OCCCCCCOCCCCCCOCC1=CC=2OCOC2C=C1 | C25H42O5
